US05863917
Aqueous sodium hydroxide (1M, 145 ml, 145 mmol) was added to a suspension of 6,7-dichloro-5-di(methanesulphonyl)amino-2,3-dimethoxy-quinoxaline (12.28 g, 28.6 mmol) and the mixture was stirred at room temperature for 16 hours. The resulting orange solution was treated with 2M hydrochloric acid (to pH 3) and the solid which precipitated was filtered off, washed with water and ether, and dried under reduced pressure at 80° C. to give N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)methanesulphonamide (8.46 g, 84%) as a white solid, mp 225°-227° C.

reactant | sodium hydroxide | 145 mmol, 1M, 145 ml | [OH-].[Na+]
reactant | 6,7-dichloro-5-di(methanesulphonyl)amino-2,3-dimethoxy-quinoxaline | 28.6 mmol, 12.28 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N(S(=O)(=O)C)S(=O)(=O)C | C12H13Cl2N3O6S2
reactant | hydrochloric acid | 2M, pH 3 | Cl | ClH
product | N-(6,7-dichloro-2,3-dimethoxyquinoxalin-5-yl)methanesulphonamide | 8.46 g, 84% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)NS(=O)(=O)C | C11H11Cl2N3O4S
